US08486970B2
To a solution of 1 g of tert-butyl [3-(cyanomethyl)phenoxy]acetate in 20 ml of THF and 10 ml of methanol was added dropwise a suspension of 1.31 g of cobalt chloride and 20 ml of water, and then 459 mg of sodium borohydride was portionwise added thereto at room temperature. After stirring at room temperature for 10 minutes, the insoluble material was separated by filtration over Celite, washed with methanol, and then concentrated. The obtained residue was extracted with chloroform, and dried over anhydrous magnesium sulfate, and the solvent was then evaporated. The obtained residue was purified by silica gel column chromatography (eluent: chloroform-methanol-saturated aqueous ammonia) to obtain 632 mg of tert-butyl [3-(2-aminoethyl)phenoxy]acetate as a pale yellow oily substance.

reactant | tert-butyl [3-(cyanomethyl)phenoxy]acetate | 1 g | C(#N)CC=1C=C(OCC(=O)OC(C)(C)C)C=CC1 | C14H17NO3
reactant | water | 20 ml | O | H2O
reactant | sodium borohydride | 459 mg | [BH4-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
catalyst | cobalt chloride | 1.31 g | [Co](Cl)Cl
product | tert-butyl [3-(2-aminoethyl)phenoxy]acetate | 632 mg | NCCC=1C=C(OCC(=O)OC(C)(C)C)C=CC1 | C14H21NO3
